US07612114B2
Synthesized from 5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine and 4-benzyloxyphenylacetyl chloride according to an analogous synthetic method to Example 152, [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (89 mg) was used according to an analogous synthetic method to Preparation Example 18 to provide [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine (61 mg). This compound (60 mg) was used according to an analogous synthetic method to Example 22 to provide 4-{2-{[5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamino}ethyl}phenol (50 mg). Synthesized from 4-{2-{[5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamino}ethyl}phenol and 1-(2-chloroethyl)azepane according to an analogous synthetic method to Example 383 described below, {2-[4-(2-azepan-1-ylethoxy)phenyl]ethyl}[5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine (42 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (27 mg).

reactant | 5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1C(C2=CC=C(C=C2CC1)OC)(C)C | C20H25NO2
reactant | 4-benzyloxyphenylacetyl chloride | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)Cl | C15H13ClO2
reactant | [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 89 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC1=C(C=CC(=C1)OC)C1C(C2=CC=C(C=C2CC1)OC)(C)C | C35H39NO3
product | [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine | 61 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNCC1=C(C=CC(=C1)OC)C1C(C2=CC=C(C=C2CC1)OC)(C)C | C36H41NO3
